US05877187
1 g of aluminium and lithium hydride was dissolved in 30 ml of THF and 3 g of ethyl 2-[4-(2-(4-(1-(2-ethoxyethyl)benzimidazole-2-yl)piperidine-1-yl)ethyl)phenyl]-2-methylpropanoate were added dropwise thereto. This was stirred for four hours at room temperature and some milliliters of water were added to eliminate excess hydride. The solution was filtered and the filtrate was washed with a saturated sodium chloride solution. This was dried and concentrated. The residue was redissolved in chloroform and washed with water, dried and concentrated. The residue was purified by flash-chromatography using a hexane/ether/isopropyl-amine mixture (2/7.5/0.5) as an eluent, to yield 1.5 g of 1-(2-ethoxyethyl)-2-[1-(2-(4-(1,1-dimethyl-2-hydroxyethyl)phenyl)ethyl)piperidine-4-yl]-1H-benzimidazole.

reactant | aluminium | 1 g | [Al] | Al
reactant | lithium hydride | [H-].[Li+]
reactant | ethyl 2-[4-(2-(4-(1-(2-ethoxyethyl)benzimidazole-2-yl)piperidine-1-yl)ethyl)phenyl]-2-methylpropanoate | 3 g | C(C)OCCN1C(=NC2=C1C=CC=C2)C2CCN(CC2)CCC2=CC=C(C=C2)C(C(=O)OCC)(C)C | C30H41N3O3
reactant | hydride | [H-]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-ethoxyethyl)-2-[1-(2-(4-(1,1-dimethyl-2-hydroxyethyl)phenyl)ethyl)piperidine-4-yl]-1H-benzimidazole | 1.5 g | C(C)OCCN1C(=NC2=C1C=CC=C2)C2CCN(CC2)CCC2=CC=C(C=C2)C(CO)(C)C | C28H39N3O2
